US04219559
A mixture of 2.1 parts of N-(4-fluorophenylmethyl)-1,2-benzenediamine, 4 parts of 1-(4-fluorophenylmethyl)-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine and 90 parts of tetrahydrofuran is stirred and refluxed for 2 hours. The reaction mixture is evaporated, yielding 6 parts (100%) of N-{2-[(4-fluorophenylmethyl)amino]phenyl}-N'-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}-ethyl]thiourea as a residue.

reactant | N-(4-fluorophenylmethyl)-1,2-benzenediamine | FC1=CC=C(C=C1)CNC=1C(=CC=CC1)N | C13H13FN2
reactant | 1-(4-fluorophenylmethyl)-N-[1-(2-isothiocyanatoethyl)-4-piperidinyl]-1H-benzimidazol-2-amine | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCN=C=S | C22H24FN5S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-{2-[(4-fluorophenylmethyl)amino]phenyl}-N'-[2-{4-[1-(4-fluorophenylmethyl)-1H-benzimidazol-2-ylamino]-1-piperidinyl}-ethyl]thiourea | 100% | FC1=CC=C(C=C1)CNC1=C(C=CC=C1)NC(=S)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C35H37F2N7S
